US04190431
1-Methyl-3-phenyl-3-hydroxyurea (10 g; 0.06 mole) was dissolved in a cooled (10° C.) 2 N aqueous sodium hydroxide (0.068 mole) solution (34 ml.). Ethyl chloroformate (6.3 ml; 0.066 mole) was added dropwise at 10°-15° C. with stirring. The stirring was continued for about 1/2 hour after the addition was completed. The desired compound, which precipitated as formed, was removed by filtration, washed with water and dried. The compound was recrystallized from methanol and dried under vacuum to yield solid 2-phenyl-4-methyl-1,2,4-oxadiazolidine-3,5-dione having a melting point of 98°-99° C. and the following elemental analysis as calculated for C9H8N2O3 :

reactant | 1-Methyl-3-phenyl-3-hydroxyurea | 0.06 mole, 10 g | CNC(=O)N(O)C1=CC=CC=C1 | C8H10N2O2
reactant | sodium hydroxide | 0.068 mole, 2 N | [OH-].[Na+]
reactant | Ethyl chloroformate | 0.066 mole, 6.3 ml | ClC(=O)OCC | C3H5ClO2
product | 2-phenyl-4-methyl-1,2,4-oxadiazolidine-3,5-dione | C1(=CC=CC=C1)N1OC(N(C1=O)C)=O | C9H8N2O3
